US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.05 g) as starting compound was reacted and treated in the same manner as in Example 1 using 2-thiophenecarbonyl chloride (0.48 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.82 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(3-(2-thiophenecarbonylamino)propyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.05 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | 2-thiophenecarbonyl chloride | 0.48 ml | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.82 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(3-(2-thiophenecarbonylamino)propyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(=O)C=2SC=CC2)C=C1Cl)OC | C21H27ClN4O3S
